US09193716B2
Step A: (5-Chlorobenzofuran-3-yl)methanol
To a mixture of 4-chloro-2-iodophenol (1 g, 3.92 mmol), tert-butyl(3-(tert-butyldimethylsilyl)prop-2-ynyloxy)-dimethylsilane (1.93 g, 6.8 mmol), LiCl (0.15 g; 3.5 mmol) and Na2CO3 (0.636 g; 6 mmol) in anhydrous DMF (10 ml) Pd(OAc)2 (0.3 g) was added at 100° C. under N2 and heating was continued for 1.5 h. The solvent was removed in vacuo and the residue was diluted to 100 ml with EtOAc, washed with H2O, dried over MgSO4 and filtered. The filtrate was evaporated to dryness and the residue was purified by FCC (SiO2, hexane/EtOAc) to give the coupling product (0.64 g; 26%). This was dissolved in THF (5 ml) and 1M TBAF in THF (2 ml) was added to it and the mixture was stirred for 4 h at reflux. The solvent was distilled off and the residue was dilute to 50 ml with EtOAc, washed with 1M HCl, H2O, dried over MgSO4 and filtered. The filtrate was evaporated to dryness and the residue was purified by FCC (SiO2, hexane/EtOAc) to give the title compound (0.33 g; 99%), as creamy paste. 1H-NMR (CDCl3) 7.63 (d, 1H, J=2.11 Hz); 6.60 (b, 1H); 7.37 (d, 1H, J=8.72 Hz); 7.25 (dd, 1H, J=8.71, 2.13 Hz); 4.79 (s, 2H).

reactant | 4-chloro-2-iodophenol | 3.92 mmol, 1 g | ClC1=CC(=C(C=C1)O)I | C6H4ClIO
reactant | tert-butyl(3-(tert-butyldimethylsilyl)prop-2-ynyloxy)-dimethylsilane | 6.8 mmol, 1.93 g | C(C)(C)(C)[Si](C)(C)OCC#C[Si](C)(C)C(C)(C)C | C15H32OSi2
reactant | LiCl | 3.5 mmol, 0.15 g | [Li+].[Cl-]
reactant | Na2CO3 | 6 mmol, 0.636 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | TBAF | 1M | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | DMF | 10 ml, 0.3 g | CN(C)C=O | C3H7NO
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | (5-Chlorobenzofuran-3-yl)methanol | 0.33 g, 99% | ClC=1C=CC2=C(C(=CO2)CO)C1 | C9H7ClO2
